US06184225B2
A mixture of 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one (5.0 g, mmol), (prepared as described for the starting material in Example 4), acetic anhydride (200 ml), sodium acetate (12 g), 10% palladium-on-charcoal catalyst (1.5 g) in toluene (100 ml) was stirred under an atmosphere of hydrogen for 3 hours. The mixture was filtered and the filtrate was evaporated. The residue was partitioned between a mixture of ethyl acetate (500 ml), methanol (20 ml) and water (300 ml). The organic phase was separated, dried (MgSO4) and the solvent removed by evaporation. The residue was triturated with hexane to give 7-acetoxy-6-methoxy-3,4-dihydroquinazolin-4-one (1.1 g, 27%).

reactant | 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one | 5.0 g | C(C1=CC=CC=C1)OC1=C(C=C2C(NC=NC2=C1)=O)OC | C16H14N2O3
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 12 g | C(C)(=O)[O-].[Na+]
catalyst | palladium-on-charcoal | 1.5 g | [Pd] | Pd
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 7-acetoxy-6-methoxy-3,4-dihydroquinazolin-4-one | 1.1 g, 27% | C(C)(=O)OC1=C(C=C2C(NC=NC2=C1)=O)OC | C11H10N2O4
